US06756498B2
2-(2-Chloro-4-fluorophenyl)-6-trifluoromethylpyrazolo[1,5-a]pyridine
To a suspension of 1-(2-chloro-4-fluorophenyl)-2-(5-trifluoromethyl-2-pyridinyl)ethanone oxime (2.65 g, 7.95 mmol) in DME (11 ml) at 5° C. was added TFAA (1.13 ml, 7.95 mmol) and the mixture stirred for 10 minutes. Triethylamine (3.3 ml, 23.85 mmol) was then added dropwise over 15 min. After the addition was complete, the reaction mixture was then warmed to room temperature. After stirring for 1 hour, iron (II) chloride (10 mg) was added and the mixture was then heated to 75° C. for 16 hours then allowed to cool. The mixture was poured into water (100 ml) and extracted with dichloromethane (100 ml). The organic extracts were dried over MgSO4 and concentrated to dryness. This residue was purified by column chromatography on silica gel eluting with diethylether-cyclohexane (1:4). Concentration of the appropriate fractions gave 0.3 g (12%) of the title compound.

reactant | 1-(2-chloro-4-fluorophenyl)-2-(5-trifluoromethyl-2-pyridinyl)ethanone oxime | 7.95 mmol, 2.65 g | ClC1=C(C=CC(=C1)F)C(CC1=NC=C(C=C1)C(F)(F)F)=NO | C14H9ClF4N2O
reactant | TFAA | 7.95 mmol, 1.13 ml | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | Triethylamine | 23.85 mmol, 3.3 ml | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | DME | 11 ml | COCCOC | C4H10O2
catalyst | iron (II) chloride | 10 mg | [Fe](Cl)Cl
product | 2-(2-Chloro-4-fluorophenyl)-6-trifluoromethylpyrazolo[1,5-a]pyridine | 0.3 g, 12% | ClC1=C(C=CC(=C1)F)C1=NN2C(C=CC(=C2)C(F)(F)F)=C1 | C14H7ClF4N2
